US04851526
3-[Heptyl(2-propenyl)amino]cycloheptanemethanol
In a manner similar to Preparation 5, react 3-[heptyl-(2-propenyl)amino]cycloheptanecarboxylic acid with lithium aluminun hydride to obtain the title compound.

reactant | 3-[heptyl-(2-propenyl)amino]cycloheptanecarboxylic acid | C(CCCCCC)N(C1CC(CCCC1)C(=O)O)CC=C | C18H33NO2
reactant | lithium | [Li] | Li
reactant | hydride | [H-]
product | 3-[Heptyl(2-propenyl)amino]cycloheptanemethanol | C(CCCCCC)N(C1CC(CCCC1)CO)CC=C | C18H35NO
